US04866199
Synthesis of 4-n-butylbenzoic acid 4-(4'-methyldecyloxy)phenyl ester
The procedure of Example 1 was followed except that the 4-(5'-methyldecyl)benzoic acid and 4-n-octoxyphenol were replaced by 4-n-butylbenzoic acid and 4-(6'-methyldecyloxy)-phenol prepared by reacting 6-methyldecylbromide with hydroquinone to thereby give the title compound.

reactant | 4-(5'-methyldecyl)benzoic acid | CC(CCCCC1=CC=C(C(=O)O)C=C1)CCCCC | C18H28O2
reactant | 4-n-octoxyphenol | C(CCCCCCC)OC1=CC=C(C=C1)O | C14H22O2
reactant | 4-n-butylbenzoic acid | C(CCC)C1=CC=C(C(=O)O)C=C1 | C11H14O2
reactant | 4-(6'-methyldecyloxy)-phenol | CC(CCCCCOC1=CC=C(C=C1)O)CCCC | C17H28O2
reactant | 6-methyldecylbromide | CC(CCCCCBr)CCCC | C11H23Br
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
product | 4-n-butylbenzoic acid 4-(4'-methyldecyloxy)phenyl ester | CC(CCCOC1=CC=C(C=C1)OC(C1=CC=C(C=C1)CCCC)=O)CCCCCC | C28H40O3
